### PR TITLE
[Merged by Bors] - feat: prove the Gagliardo-Nirenberg-Sobolev inequality

### PR DESCRIPTION
**Pull request by fpvandoorn**
* From the Sobolev inequality project

Co-authored-by: Heather Macbeth 25316162+hrmacbeth@users.noreply.github.com

---

- [x] depends on: #14124
- [x] depends on: #14159

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Integral/SobolevInequality.lean [hunk 1]
```diff
@@ -0,0 +1,619 @@
...
+/-- Special case of the grid-lines lemma `lintegral_mul_prod_lintegral_pow_le`, taking the extremal
+exponent `p = (#ι - 1)⁻¹`. -/
+theorem lintegral_prod_lintegral_pow_le [Nontrivial ι]
+    {p : ℝ} (hp : Real.IsConjExponent #ι p)
+    {f} (hf : Measurable f) :
+    ∫⁻ x, ∏ i, (∫⁻ xᵢ, f (update x i xᵢ) ∂μ i) ^ ((1 : ℝ) / (#ι - 1 : ℝ)) ∂.pi μ
+    ≤ (∫⁻ x, f x ∂.pi μ) ^ p := by
+  have h0 : (1:ℝ) < #ι := by norm_cast; exact Fintype.one_lt_card
+  have h1 : (0:ℝ) < #ι - 1 := by linarith
+  have h3 : 0 ≤ ((1 : ℝ) / (#ι - 1 : ℝ)) := by positivity
```
Comment (Ruben-VandeVelde) [inline Mathlib/MeasureTheory/Integral/SobolevInequality.lean:241]: I guess there used to be a `h2` here; you might renumber

File: Mathlib/MeasureTheory/Integral/SobolevInequality.lean [hunk 2]
```diff
@@ -0,0 +1,619 @@
...
+    _ ≤ ‖fderiv ℝ u (update x i y)‖₊ * ‖deriv (update x i) y‖₊ :=
+        ContinuousLinearMap.le_opNNNorm ..
+    _ ≤ ‖fderiv ℝ u (update x i y)‖₊ := by simp [deriv_update, Pi.nnnorm_single]
+
+variable {E : Type*} [NormedAddCommGroup E] [NormedSpace ℝ E] [MeasurableSpace E] [BorelSpace E]
+  [FiniteDimensional ℝ E] (μ : Measure E) [IsAddHaarMeasure μ]
+
+open FiniteDimensional
+
+set_option linter.unusedVariables false in
```
Comment (Ruben-VandeVelde) [inline Mathlib/MeasureTheory/Integral/SobolevInequality.lean:307]: Why?

File: Mathlib/MeasureTheory/Integral/SobolevInequality.lean [hunk 3]
```diff
@@ -0,0 +1,619 @@
...
+    convert hC hu h2u
+    ext
+    rw [← inv_inj, hp']
+    field_simp [n', NNReal.conjExponent]
+  -- the case `p > 1`
+  let q := Real.conjExponent p
+  have hq : Real.IsConjExponent p q := .conjExponent hp
+  have h0p : p ≠ 0 := zero_lt_one.trans hp |>.ne'
+  have h1p : (p : ℝ) ≠ 1 := hq.one_lt.ne'
+  -- have h3p : (p : ℝ) ≠ 0 := hq.pos.ne'
```
Comment (Ruben-VandeVelde) [inline Mathlib/MeasureTheory/Integral/SobolevInequality.lean:433]:
```suggestion
```

File: Mathlib/MeasureTheory/Integral/SobolevInequality.lean [hunk 4]
```diff
@@ -0,0 +1,619 @@
...
+theorem snorm_le_snorm_fderiv_of_eq [FiniteDimensional ℝ F] {p p' : ℝ≥0} (hp : 1 ≤ p)
+    (h2p : p < finrank ℝ E) (hp' : (p' : ℝ)⁻¹ = p⁻¹ - (finrank ℝ E : ℝ)⁻¹) :
+    ∃ C : ℝ≥0, ∀ {u : E → F} (hu : ContDiff ℝ 1 u) (h2u : HasCompactSupport u),
+    snorm u p' μ ≤ C * snorm (fderiv ℝ u) p μ := by
+  let F' := EuclideanSpace ℝ <| Fin <| finrank ℝ F
+  let e : F ≃L[ℝ] F' := toEuclidean
+  let C₁ : ℝ≥0 := ‖(e.symm : F' →L[ℝ] F)‖₊
+  let C₂ : ℝ≥0 := ‖(e : F →L[ℝ] F')‖₊
+  obtain ⟨C, hC⟩ := snorm_le_snorm_fderiv_of_eq_inner μ F' hp h2p hp'
+  refine ⟨C₁ * C * C₂, @fun u hu h2u ↦ ?_⟩ -- nope?
```
Comment (Ruben-VandeVelde) [inline Mathlib/MeasureTheory/Integral/SobolevInequality.lean:523]: "nope?"?

File: Mathlib/MeasureTheory/Integral/SobolevInequality.lean (hunk 2 above)
Comment (fpvandoorn) [reply Mathlib/MeasureTheory/Integral/SobolevInequality.lean:307]: It flags the hypotheses `hu` and `h2u` in the conclusion. But disabling the linter is not nice, I enabled it again.

File: Mathlib/MeasureTheory/Integral/SobolevInequality.lean (hunk 4 above)
Comment (fpvandoorn) [reply Mathlib/MeasureTheory/Integral/SobolevInequality.lean:523]: Oops, artifact from when the constant wasn't correct yet :-)

File: Mathlib/MeasureTheory/Function/LpSpace.lean [hunk 5]
```diff
@@ -672,6 +672,13 @@ theorem memℒp_indicator_iff_restrict (hs : MeasurableSet s) :
   simp [Memℒp, aestronglyMeasurable_indicator_iff hs, snorm_indicator_eq_snorm_restrict hs]
 #align measure_theory.mem_ℒp_indicator_iff_restrict MeasureTheory.memℒp_indicator_iff_restrict
 
+/-- For a function `f` with support in `s`, the Lᵖ norms of `f` with respect to `μ` and
+`μ.restrict s` are the same. -/
+theorem snorm_restrict_eq {s : Set α} (hs : MeasurableSet s) (hsf : f.support ⊆ s) :
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Function/LpSpace.lean:677]: hs shouldn't be needed: otherwise, use the measurable hull of s instead. Since it contains s, it will also satisfy hsf

File: Mathlib/MeasureTheory/Integral/SobolevInequality.lean [hunk 6]
```diff
@@ -0,0 +1,610 @@
...
+Let `n` be the dimension of the domain.
+
+## Main results
+
+* `MeasureTheory.snorm_le_snorm_fderiv_of_eq`:
+  The bound holds for `1 ≤ p < n` and `q⁻¹ = p⁻¹ - n⁻¹`
+* `MeasureTheory.snorm_le_snorm_fderiv_of_le`:
+  The bound holds when `1 ≤ p < n`, `0 ≤ q` and `p⁻¹ - n⁻¹ ≤ q⁻¹`.
+  Note that in this case the constant depends on the support of `u`.
+-/
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/SobolevInequality.lean:28]: Could you sketch in the file-level docstring the proof you are following, first in informal terms and then describing the formalization concepts you use to avoid DTT?

File: Mathlib/MeasureTheory/Integral/SobolevInequality.lean [hunk 7]
```diff
@@ -0,0 +1,610 @@
...
+/-- The main inductive step in the grid-lines lemma for the Gagliardo-Nirenberg-Sobolev inequality.
+
+The grid-lines operation `GridLines.T` on a nonnegative function on a finitary product type is
+less than or equal to the grid-lines operation of its partial integral in one co-ordinate
+(the latter intuitively considered as a function on a space "one dimension down"). -/
+theorem T_insert_le_T_lmarginal_singleton (hp₀ : 0 ≤ p) (s : Finset ι)
+    (hp : (s.card : ℝ) * p ≤ 1)
+    (i : ι) (hi : i ∉ s) {f : (∀ i, A i) → ℝ≥0∞} (hf : Measurable f) :
+    T μ p f (insert i s) ≤ T μ p (∫⋯∫⁻_{i}, f ∂μ) s := by
+  calc T μ p f (insert i s)
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/SobolevInequality.lean:87]: Whenever a proof is more than 15 lines long, I think it deserves some comments explaining what you are doing. This one qualifies.

File: Mathlib/MeasureTheory/Integral/SobolevInequality.lean [hunk 8]
```diff
@@ -0,0 +1,610 @@
...
+expression `|u x| ^ (n / (n - 1))` is bounded above by the `n / (n - 1)`-th power of the Lebesgue
+integral of the Fréchet derivative of `u`.
+
+For a basis-free version, see `lintegral_pow_le_pow_lintegral_fderiv`. -/
+theorem lintegral_pow_le_pow_lintegral_fderiv_aux
+    {p : ℝ} (hp : Real.IsConjExponent #ι p)
+    {u : (ι → ℝ) → F} (hu : ContDiff ℝ 1 u)
+    (h2u : HasCompactSupport u) :
+    ∫⁻ x, (‖u x‖₊ : ℝ≥0∞) ^ p ≤ (∫⁻ x, ‖fderiv ℝ u x‖₊) ^ p := by
+  have : (1:ℝ) ≤ ↑#ι - 1 := by
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/SobolevInequality.lean:262]: Add some comments in the proof?

File: Mathlib/MeasureTheory/Integral/SobolevInequality.lean [hunk 9]
```diff
@@ -0,0 +1,610 @@
...
+  have h2 : 0 ≤ ((1 : ℝ) / (#ι - 1 : ℝ)) := by positivity
+  have h3 : (#ι - 1 : ℝ) * ((1 : ℝ) / (#ι - 1 : ℝ)) ≤ 1 := by field_simp
+  have h4 : p = 1 + 1 / (↑#ι - 1) := by field_simp; rw [mul_comm, hp.sub_one_mul_conj]
+  rw [h4]
+  convert lintegral_mul_prod_lintegral_pow_le μ h2 h3 hf using 2
+  field_simp
+
+/-! ## The Gagliardo-Nirenberg-Sobolev inequality -/
+
+variable [Nontrivial ι] {F : Type*} [NormedAddCommGroup F] [NormedSpace ℝ F] [CompleteSpace F]
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/SobolevInequality.lean:248]: Do you really need the assumption that iota is nontrivial? Below, you assume `Real.IsConjExponent #ι p`, which probably implies it? Same thing in the other statements below.

File: Mathlib/MeasureTheory/Function/LpSpace.lean (hunk 5 above)
Comment (fpvandoorn) [reply Mathlib/MeasureTheory/Function/LpSpace.lean:677]: I also thought that, but I wasn't sure how to get `snorm f p (μ.restrict s) = snorm f p (μ.restrict (toMeasurable μ s)`

Comment (sgouezel) [reply Mathlib/MeasureTheory/Function/LpSpace.lean:677]: Loogle tells me about [MeasureTheory.Measure.restrict_toMeasurable_of_sFinite](https://leanprover-community.github.io/mathlib4_docs/Mathlib/MeasureTheory/Measure/Typeclasses.html#MeasureTheory.Measure.restrict_toMeasurable_of_sFinite)

File: Mathlib/MeasureTheory/Integral/SobolevInequality.lean (hunk 9 above)
Comment (fpvandoorn) [reply Mathlib/MeasureTheory/Integral/SobolevInequality.lean:248]: Well spotted! This removes multiple other arguments.
In `snorm_le_snorm_fderiv_of_eq_inner` I added a new condition that `0 < n`, and I *think* that is necessary, but my brain hurts when I have to think about 0-dimensional vector spaces.

File: Mathlib/MeasureTheory/Integral/SobolevInequality.lean [hunk 10]
```diff
@@ -0,0 +1,610 @@
...
+compactly-supported function `u` on a normed space `E` of finite dimension `n`, equipped
+with Haar measure, let `1 < p < n` and let `p'⁻¹ := p⁻¹ - n⁻¹`.
+There exists a constant `C` depending only on `E` and `p`, such that the `Lᵖ'` norm of `u`
+is bounded above by `C` times the `Lᵖ` norm of the Fréchet derivative of `u`.
+
+Note: The codomain of `u` needs to be a Hilbert space.
+-/
+theorem snorm_le_snorm_fderiv_of_eq_inner {p p' : ℝ≥0} (hp : 1 ≤ p)
+    (h2p : p < finrank ℝ E) (hp' : (p' : ℝ)⁻¹ = p⁻¹ - (finrank ℝ E : ℝ)⁻¹) :
+    ∃ C : ℝ≥0, ∀ {u : E → F'} (_hu : ContDiff ℝ 1 u) (_h2u : HasCompactSupport u),
```
[the remark this answers is not in the document]
Comment (fpvandoorn) [reply Mathlib/MeasureTheory/Integral/SobolevInequality.lean]: Done. Note that in the versions with a finite dimensional normed space as codomain it does depend on (the norm of) `F`.

File: Mathlib/MeasureTheory/Integral/SobolevInequality.lean (hunk 6 above)
Comment (fpvandoorn) [reply Mathlib/MeasureTheory/Integral/SobolevInequality.lean:45]: Done, and I also further gave a proof sketch in 5 long proofs.

File: Mathlib/MeasureTheory/Function/LpSpace.lean (hunk 5 above)
Comment (fpvandoorn) [reply Mathlib/MeasureTheory/Function/LpSpace.lean:677]: I replaced the lemma, and this is actually nicer. I didn't realize we had to put some effort in making the set measurable when we applied it, so this is a nice simplification.

This does add a small amount of imports to the file `LpSpace`.

**Comment by fpvandoorn** [comment]
I (hopefully) addressed all review comments.

File: Mathlib/MeasureTheory/Integral/SobolevInequality.lean [hunk 11]
```diff
@@ -0,0 +1,663 @@
...
+    _ ≤ ‖fderiv ℝ u (update x i y)‖₊ * ‖deriv (update x i) y‖₊ :=
+        ContinuousLinearMap.le_opNNNorm ..
+    _ ≤ ‖fderiv ℝ u (update x i y)‖₊ := by simp [deriv_update, Pi.nnnorm_single]
+
+variable {E : Type*} [NormedAddCommGroup E] [NormedSpace ℝ E] [MeasurableSpace E] [BorelSpace E]
+  [FiniteDimensional ℝ E] (μ : Measure E) [IsAddHaarMeasure μ]
+
+open FiniteDimensional
+
+variable (F) in
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/SobolevInequality.lean:343]: still needed?

File: Mathlib/MeasureTheory/Function/LpSpace.lean [hunk 12]
```diff
@@ -672,6 +673,15 @@ theorem memℒp_indicator_iff_restrict (hs : MeasurableSet s) :
   simp [Memℒp, aestronglyMeasurable_indicator_iff hs, snorm_indicator_eq_snorm_restrict hs]
 #align measure_theory.mem_ℒp_indicator_iff_restrict MeasureTheory.memℒp_indicator_iff_restrict
 
+/-- For a function `f` with support in `s`, the Lᵖ norms of `f` with respect to `μ` and
+`μ.restrict s` are the same. -/
+theorem snorm_restrict_eq [SFinite μ] {s : Set α} (hsf : f.support ⊆ s) :
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Function/LpSpace.lean:678]: In fact I think it's possible to get rid also of the SFinite condition, but I'll do that after this PR is merged.

File: Mathlib/MeasureTheory/Integral/SobolevInequality.lean [hunk 13]
```diff
@@ -0,0 +1,661 @@
...
+  have h2 : 0 ≤ ((1 : ℝ) / (#ι - 1 : ℝ)) := by positivity
+  have h3 : (#ι - 1 : ℝ) * ((1 : ℝ) / (#ι - 1 : ℝ)) ≤ 1 := by field_simp
+  have h4 : p = 1 + 1 / (↑#ι - 1) := by field_simp; rw [mul_comm, hp.sub_one_mul_conj]
+  rw [h4]
+  convert lintegral_mul_prod_lintegral_pow_le μ h2 h3 hf using 2
+  field_simp
+
+/-! ## The Gagliardo-Nirenberg-Sobolev inequality -/
+
+variable {F : Type*} [NormedAddCommGroup F] [NormedSpace ℝ F] [CompleteSpace F]
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/SobolevInequality.lean:277]: The completeness assumption here is probably not necessary, but removing this can definitely wait for another PR.

File: Mathlib/MeasureTheory/Integral/SobolevInequality.lean [hunk 14]
```diff
@@ -0,0 +1,661 @@
...
+    _ ≤ ‖fderiv ℝ u (update x i y)‖₊ := by simp [deriv_update, Pi.nnnorm_single]
+
+variable {E : Type*} [NormedAddCommGroup E] [NormedSpace ℝ E] [MeasurableSpace E] [BorelSpace E]
+  [FiniteDimensional ℝ E] (μ : Measure E) [IsAddHaarMeasure μ]
+
+open FiniteDimensional
+
+/-- The **Gagliardo-Nirenberg-Sobolev inequality**.  Let `u` be a continuously differentiable
+compactly-supported function `u` on a normed space `E` of finite dimension `n ≥ 2`, equipped
+with Haar measure. There exists a constant `C` depending only on `E`, such that the Lebesgue
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/SobolevInequality.lean:345]:
```suggestion
with Haar measure. There exists a constant `C` depending only on `E` and `μ`, such that the Lebesgue
```

File: Mathlib/MeasureTheory/Integral/SobolevInequality.lean [hunk 15]
```diff
@@ -0,0 +1,661 @@
...
+integral of the pointwise expression `|u x| ^ (n / (n - 1))` is bounded above by `C` times the
+`n / (n - 1)`-th power of the Lebesgue integral of the Fréchet derivative of `u`. -/
+theorem lintegral_pow_le_pow_lintegral_fderiv {p : ℝ} (hp : Real.IsConjExponent (finrank ℝ E) p) :
+    ∃ C : ℝ≥0, ∀ {F : Type*} [NormedAddCommGroup F] [NormedSpace ℝ F] [CompleteSpace F]
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/SobolevInequality.lean:349]: I have a small problem with existential statements like that, that the constant `C` might a priori depend on the universe of `F`. So you can not really write that "it only depend on E and mu" (well, it's true, but not what the statement says). I wonder if it's not clearer to define a constant `gagliardoNirenbergSobolevConstant E \mu := ...` and use that in the statements, to lift this ambiguity (with a shorter notation to be used in the current file, to make things readable). It would also have the advantage to avoid the ugly forall quantifier in the statement.

Same thing for the other statements below.

What do you think?

**Review by sgouezel — COMMENTED** [review]
It feels weird to have this in the MeasureTheory folder; this is firmly a statement in analysis, just like all Sobolev spaces theory. Maybe create a folder `Analysis/FunctionalSpaces` and put it there?

File: Mathlib/MeasureTheory/Integral/SobolevInequality.lean (hunk 15 above)
Comment (fpvandoorn) [reply Mathlib/MeasureTheory/Integral/SobolevInequality.lean:349]: I am in favor, since I think that will be a lot nicer to work with in practice. I'm also doing that in the formalization of Carleson's theorem. I wasn't sure if that style was appropriate for Mathlib.

Comment (fpvandoorn) [reply Mathlib/MeasureTheory/Integral/SobolevInequality.lean:349]: Since multiple statements in this file have slightly different constants, I'll probably use something like `lintegralPowLePowLintegralFderivConst`.

File: Mathlib/MeasureTheory/Integral/SobolevInequality.lean (hunk 14 above)
Comment (fpvandoorn) [reply Mathlib/MeasureTheory/Integral/SobolevInequality.lean:355]: I reformulated these sentences now that we've separated out the constants.

**Comment by fpvandoorn** [comment]
Thanks for your quick reviews! 
I don't see how to quickly do the 2 suggested generalizations, so let's leave them for a later PR.
I incorporated your last suggestion, reformulated docstrings with this change, and added a paragraph in the module doc explaining this.

File: Mathlib/MeasureTheory/Integral/SobolevInequality.lean [hunk 16]
```diff
@@ -0,0 +1,711 @@
...
+variable {E : Type*} [NormedAddCommGroup E] [NormedSpace ℝ E] [MeasurableSpace E] [BorelSpace E]
+  [FiniteDimensional ℝ E] (μ : Measure E) [IsAddHaarMeasure μ]
+
+open FiniteDimensional
+
+/-- The constant factor occurring in the conclusion of `lintegral_pow_le_pow_lintegral_fderiv`.
+It only depends on `E`, `μ` and `p`.
+It is determined by the ratio of the measures on `E` and `ℝⁿ` and
+the operator norm of `e` (raised to suitable powers involving `p`).-/
+def lintegralPowLePowLIntegralFDerivConst (p : ℝ) : ℝ≥0 := by
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/SobolevInequality.lean:352]: `irreducible_def`, maybe, to make sure that Lean will not try to unfold it given how nasty it is. Same thing for all the other constants definition below.

File: Mathlib/MeasureTheory/Integral/SobolevInequality.lean [hunk 17]
```diff
@@ -0,0 +1,711 @@
...
+
+variable {E : Type*} [NormedAddCommGroup E] [NormedSpace ℝ E] [MeasurableSpace E] [BorelSpace E]
+  [FiniteDimensional ℝ E] (μ : Measure E) [IsAddHaarMeasure μ]
+
+open FiniteDimensional
+
+/-- The constant factor occurring in the conclusion of `lintegral_pow_le_pow_lintegral_fderiv`.
+It only depends on `E`, `μ` and `p`.
+It is determined by the ratio of the measures on `E` and `ℝⁿ` and
+the operator norm of `e` (raised to suitable powers involving `p`).-/
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/SobolevInequality.lean:351]: Can you say in the docstring what `e` is?

**Review by sgouezel — COMMENTED** [review]
bors d+
Thanks!

**Comment by fpvandoorn** [comment]
bors merge

File: Mathlib/MeasureTheory/Function/LpSpace.lean (hunk 5 above)
Comment (sgouezel) [reply Mathlib/MeasureTheory/Function/LpSpace.lean]: I have a proof removing the `SFinite` assumption, but I will first wait for #14260 to be merged, to avoid introducing new lemmas with a wrong name.

File: Mathlib/MeasureTheory/Integral/SobolevInequality.lean (hunk 13 above)
Comment (sgouezel) [reply Mathlib/MeasureTheory/Integral/SobolevInequality.lean:282]: Done in #14262

File: Mathlib/MeasureTheory/Function/LpSpace.lean (hunk 5 above)
Comment (sgouezel) [reply Mathlib/MeasureTheory/Function/LpSpace.lean]: See #14289
